US08895761B2
To a mixture of 4-(4-bromo-2-ethylphenyl)-2,2,6-trimethylpyran-3,5-dione (0.5 g, 1.48 mmol), cesium fluoride (0.70 g, 4.4 mmol), 4-fluorophenylboronic acid (0.31 g, 2.23 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (0.19 g, 0.23 mmol) is added degassed dimethoxyethane (15 ml) and the resulting suspension is stirred under nitrogen for 45 minutes then heated at 80° C. for 24 hours. After cooling to room temperature the reaction mixture is acidified with 1N aqueous hydrochloric acid. The mixture is extracted with ethyl acetate (3×25 ml) and then all organic fractions are combined, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to afford 4-(3-ethyl-4′-fluorobiphenyl-4-yl)-2,2,6-trimethylpyran-3,5-dione (0.27 g) as a white solid.

reactant | 4-(4-bromo-2-ethylphenyl)-2,2,6-trimethylpyran-3,5-dione | 1.48 mmol, 0.5 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)C)(C)C)=O)CC | C16H19BrO3
reactant | cesium fluoride | 4.4 mmol, 0.70 g | [F-].[Cs+]
reactant | 4-fluorophenylboronic acid | 2.23 mmol, 0.31 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | 0.23 mmol, 0.19 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3-ethyl-4′-fluorobiphenyl-4-yl)-2,2,6-trimethylpyran-3,5-dione | 0.27 g | C(C)C=1C=C(C=CC1C1C(C(OC(C1=O)C)(C)C)=O)C1=CC=C(C=C1)F | C22H23FO3
